US08609653B2
6-bromo-5-methyl-3,4-dihydro-2H-benzo[b][1,4]oxazine
An ice cold mixture of 6-bromo-5-methyl-2H-1,4-benzoxazin-3(4H)-one (3.05 g, 12.59 mmol) in tetrahydrofuran (THF) (40 mL) was treated with borane tetrahydrofuran complex (1.0 M solution in tetrahydrofuran (18.88 mL, 18.88 mmol) and the mixture was stirred at ambient temperature for 150 minutes. The mixture was cooled to 0° C. and then quenched slowly with 1N NaOH (30 mL). The mixture was extracted with ethyl acetate, then washed with 1N NaOH, dried over sodium sulfate, filtered and then concentrated to a thick dark brown oil. The material was purified on silica gel (95:4:1 dichloromethane/methanol/ammonium hydroxide, gradient) to afford an off-white solid: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 6.87 (d, J=8.6 Hz, 1 H), 6.57 (d, J=8.8 Hz, 1 H), 4.31-4.15 (m, 2 H), 3.56-3.38 (m, 2 H), 2.22 (s, 3 H); LC/MS (m/z) ES+=228 (M+1).

reactant | 6-bromo-5-methyl-2H-1,4-benzoxazin-3(4H)-one | 12.59 mmol, 3.05 g | BrC=1C=CC2=C(NC(CO2)=O)C1C | C9H8BrNO2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 18.88 mmol, 18.88 mL | O1CCCC1 | C4H8O
product | 6-bromo-5-methyl-3,4-dihydro-2H-benzo[b][1,4]oxazine | BrC1=C(C2=C(OCCN2)C=C1)C | C9H10BrNO
